US08461289B2
β-Hydroxy Leucine Ethyl Ester Hydrochloride
Into a 100 mL round-bottomed flask equipped with reflux condenser is added 50 mL ethanol and stirred using magnetic stirrer under positive nitrogen pressure. The flask is cooled using a dry ice/IPA bath to −35° C. Using an addition funnel 8.5 mL (0.12 mol) of thionyl chloride is added over 10 min. To the flask is then added 14.7 g (0.1 mol) of β-Hydroxy Leucine. The cooling bath is then removed and the flask heated using a heating mantle to reflux for 10 h. The reaction mixture is concentrated to 20 mL and then precipitated by adding 50 mL of ether. The product is isolated by filtration and washed with ether. The product β-Hydroxy Leucine ethyl ester hydrochloride is characterized by proton NMR and elemental analysis.

reactant | thionyl chloride | 0.12 mol, 8.5 mL | S(=O)(Cl)Cl | Cl2OS
reactant | β-Hydroxy Leucine | 0.1 mol, 14.7 g | OC([C@H](N)C(=O)O)C(C)C | C6H13NO3
reactant | ethanol | 50 mL | C(C)O | C2H6O
product | β-Hydroxy Leucine Ethyl Ester Hydrochloride | Cl.C(C)OC([C@@H](N)C(C(C)C)O)=O | InChI=1S/C8H17NO3.ClH/c1-4-12-8(11)6(9)7(10)5(2)3;/h5-7,10H,4,9H2,1-3H3;1H/t6-,7?;/m0./s1
